US05073550
2.00 g of 5-mercapto-7-methylpyrazolo[1,5-a]pyrimidine-3-carboxylic acid were heated to 220° under argon for 1 hour. After cooling, the reaction mixture was taken up in 10 percent potassium hydrogen carbonate solution. The insoluble portion was filtered off under suction and taken up in water. The solution was acidified to pH 2 and the precipitate was filtered off under suction. After drying, there was obtained 7-methylpyrazolo[1,5-a]pyrimidine-5-thiol.

reactant | 5-mercapto-7-methylpyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 2.00 g | SC1=NC=2N(C(=C1)C)N=CC2C(=O)O | C8H7N3O2S
solvent | potassium hydrogen carbonate | C(O)([O-])=O.[K+]
product | 7-methylpyrazolo[1,5-a]pyrimidine-5-thiol | CC1=CC(=NC=2N1N=CC2)S | C7H7N3S
